US06432988B1
b) Ethyl 3-chlorosulfonyl-4-methoxybenzoate
A solution of ethyl 4-methoxybenzoate (10.25 g, 57 mmol) in CCl4 (40 ml) is cooled to −15° C. and treated dropwise with chlorosulfonic acid (10.4 ml, 156 mmol) in the course of 15 min, the temperature rising to −10° C. After addition is complete, the reaction mixture is warmed to RT with stirring in the course of 30 min and then stirred at 40-50° C. for 1.5 h. The heating is removed and the reaction mixture is stirred at RT in a gentle stream of argon for 64 h to complete the chlorination. The reaction mixture is added to a suspension of ice (25 g) in CCl4 (50 ml) with ice-cooling and vigorous stirring. It is stirred vigorously for 3 min. The organic phase is separated off and the aqueous phase is extracted 3 times with further CH2Cl2 (150 ml). The combined organic extracts are washed with saturated NaCl solution, dried over Na2SO4 sicc. and concentrated: a crystalline, white residue of a mixture of ester and free acid in the ratio 1:1 remains, which is dried on an oil pump, yield 6.7 g (42%)

reactant | ethyl 4-methoxybenzoate | 57 mmol, 10.25 g | COC1=CC=C(C(=O)OCC)C=C1 | C10H12O3
reactant | chlorosulfonic acid | 156 mmol, 10.4 ml | ClS(=O)(=O)O | ClHO3S
solvent | CCl4 | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 3-chlorosulfonyl-4-methoxybenzoate | ClS(=O)(=O)C=1C=C(C(=O)OCC)C=CC1OC | C10H11ClO5S
